US05155113
Preparation of 4-acetoxy-2-benzoyloxypyridine
A 0.77 g quantity of 4-acetoxy-2-pyridone was suspended in 30 ml of dioxane. To the suspension were added 2.09 ml of triethylamine and 0.58 ml of benzoyl chloride and the mixture was stirred at room temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure and the residue was subjected to silica gel chromatography using, as an eluent, chloroform, giving 0.95 g of the title compound in a yield of 73%.

reactant | 4-acetoxy-2-pyridone | C(C)(=O)OC1=CC(NC=C1)=O | C7H7NO3
reactant | triethylamine | 2.09 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.58 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | 4-acetoxy-2-benzoyloxypyridine | 0.95 g, yield of 73% | C(C)(=O)OC1=CC(=NC=C1)OC(C1=CC=CC=C1)=O | C14H11NO4
